* BVM→Paper BQ Cascade
.include ../../../circuits/models/jjmit.cir
.include ../../../circuits/bvm/bvm_cell.cir
.include ../../../circuits/qb/bq_cell_paper.cir
XBVM1 WL1 BL1 SE1 SL1 BVM
B_LD1 SL1 nld1 jjmit area=5
B_LD2 nld1 nld2 jjmit area=5
B_LD3 nld2 nld3 jjmit area=5
B_LD4 nld3 nld4 jjmit area=5
B_LD5 nld4 nld5 jjmit area=5
B_LD6 nld5 nld6 jjmit area=5
B_LD7 nld6 nld7 jjmit area=5
B_LD8 nld7 IN_BQ jjmit area=5
I_IBIAS 0 IBIAS pwl(0 0 1p 90u)
XBQ IN_BQ OUT_Q IBIAS BQ_PAPER
R_LOAD OUT_Q 0 10
I_WL1 0 WL1 pwl(0 0 9p 0 10p 100U 20p 100U 21p 0 30p 0 31p 100U 40p 100U 41p 0 60p 0 61p -100U 70p -100U 71p 0 80p 0 81p 100U 90p 100U 91p 0 110p 0)
I_BL1 0 BL1 pwl(0 0 9p 0 10p 100U 20p 100U 21p 0 30p 0 41p 0 60p 0 61p -100U 70p -100U 71p 0 80p 0 91p 0 110p 0)
I_SE1 0 SE1 pwl(0 0 30p 0 31p 100U 40p 100U 41p 0 80p 0 81p 100U 90p 100U 91p 0 110p 0)
.tran 0.1p 110p
.print P(B_JM1|XBVM1) P(BJS|XBQ) P(BJL1|XBQ) V(OUT_Q) V(IN_BQ) I(L_SL|XBVM1)
.end
