* Example JTL Basic
.subckt jtl2 4 5
B01        3          7          jmitll     area=2
B02        6          8          jmitll     area=2
* IB01       0          1          pwl(0      0 5p 280u)
IB01       0          1          pwl(0      0 5p 280u)
L01        4          3          2p        
L02        3          2          2.425p    
L03        2          6          2.425p    
L04        6          5          2.031p    
LP01       0          7          0.086p    
LP02       0          8          0.096p    
LPR01      2          1          0.278p    
LRB01      7          9          0.086p    
LRB02      8          10         0.086p    
RB01       9          3          5.23      
RB02       10         6          5.23      
*ROUT       5          0          2         
.model jmitll jj(rtype=1, vg=2.8mV, cap=0.07pF, r0=160, rN=16, icrit=0.1mA)
.ends jtl2