* Back - annotated simulation file written by InductEx v .6.0.4 on 2 -6 -21.
* Author : L . Schindler
* Version : 2.1
* Last modification date : 2 June 2021
* Last modification by : L . Schindler
* $Ports a q
.subckt dcsfq2 a q
.model jj0 jj(rtype=1, vg =2.8mV, cap =0.07pF, r0 =160, rn =16, icrit =0.1mA)
.param B0=1.0
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2
.param Lsheet=1.13e-12
.param LB=2p
.param LP=0.2p
.param B1=2.25
.param B2=2.25
.param B3=2.5
.param L1=1p
.param L2=3.9p
.param L3=0.6p
.param L4=1.1p
.param L5=4.5p
.param L6=2p
.param IB1=275u
.param IB2=175u
.param LB1=LB
.param LB2=LB
.param LP2=LP
.param LP3=LP
.param RB1=B0Rs/B1
.param RB2=B0Rs/B2
.param RB3=B0Rs/B3
.param LRB1=(RB1/Rsheet)*Lsheet
.param LRB2=(RB2/Rsheet)*Lsheet
.param LRB3=(RB3/Rsheet)*Lsheet


B01 2 3 jj0 area=B1
B02 5 6 jj0 area=B2
B03 7 8 jj0 area=B3
IB01 0 4 pwl (0 0 5p IB1)
IB02 0 9 pwl (0 0 5p IB2)
LB1 3 4 3.12E-12
LB2 7 9 2.281E-12
L1 a 1 1.295E-12
L2 1 0 3.904E-12
L3 1 2 5.998E-13
L4 3 5 1.095E-12
L5 5 7 4.448E-12
L6 7 q 1.334E-12
LP2 6 0 5.16E-13
LP3 8 0 4.733E-13
RB1 2 102 RB1
LRB1 102 3 LRB1
RB2 5 105 RB2
LRB2 105 0 LRB2
* RB3 7 0 RB3
RB3 7 0 0.5
* LRB3 107 0 LRB3
.ends
