* Isolation Test: Single BVM + 1xjj320 + QB (JS=25uA, C1-optimized)
* Measures pure load effect without multi-BVM leakage
.include ../../circuits/bvm/bvm_cell.cir
.model jj25 jj(RTYPE=1, IC=25U, RN=10, R0=30, CAP=0.15P, VG=2.8M, DELV=0.1M)

XBVM0 WL0 BL0 SE0 SL_NODE BVM

* SERIES: SL -> jj320 -> QB
B_LD1 SL_NODE QB_IN jj320 area=1
L_IN_Q  QB_IN N_JS_IN_Q   0.8P
B_JS_Q  N_JS_IN_Q N_JS_OUT_Q  jj25 area=1
R_SH_Q  N_JS_IN_Q N_JS_OUT_Q  10
B_JL1_Q N_JS_OUT_Q 0           jj112 area=1
L_L1_Q  N_JS_OUT_Q N_MID_Q     3.91P
R_RB_Q  N_MID_Q   IBIAS_Q     8.5
L_L2_Q  N_MID_Q   N_PRE_OUT_Q  3.91P
B_JL2_Q N_PRE_OUT_Q 0          jj189 area=1
L_L0_Q  N_PRE_OUT_Q OUT_Q      1.323P
R_LOAD_Q OUT_Q 0 12.0
I_IBIAS_Q IBIAS_Q 0 DC 40U

* W1(10-20ps), R1(90-100ps)
I_WL0 0 WL0 pwl(0 0 9p 0
+ 10p 100U 20p 100U 21p 0
+ 90p 0 91p 100U 100p 100U 101p 0
+ 110p 0)
I_BL0 0 BL0 pwl(0 0 9p 0
+ 10p 100U 20p 100U 21p 0
+ 90p 0 110p 0)
I_SE0 0 SE0 pwl(0 0
+ 90p 0 91p 100U 100p 100U 101p 0
+ 110p 0)

.tran 0.2p 110p 0 0.4p 0 DST
.print P(B_JM1|XBVM0)
.print I(B_LD1) V(B_JS_Q) P(B_JS_Q) I(B_JS_Q) V(OUT_Q)
.end
