* BVM Multi-Vortex Write/Read Consistency — P2 (GPT audit §十.6)
* Sequence: W1(10-20) R1(30-40) W0(60-70) R0(80-90) W1#2(110-120) R1#2(130-140)
* 2nd W1/R1 cycle replaces HS pulses of test_bvm_final.cir to fit .tran 0.1p 160p
* Fixed step .tran 0.1p (frozen convention, no DST), 12-JJ load stack (area=3.2)
.include ../../../circuits/models/jjmit.cir
.include ../../../circuits/bvm/bvm_cell.cir

XBVM1 WL1 BL1 SE1 SL1 BVM

* SL load: 12×jjmit(area=3.2) stack → IC=320μA per junction
B_LD1  SL1 nld1  jjmit area=3.2
B_LD2  nld1 nld2 jjmit area=3.2
B_LD3  nld2 nld3 jjmit area=3.2
B_LD4  nld3 nld4 jjmit area=3.2
B_LD5  nld4 nld5 jjmit area=3.2
B_LD6  nld5 nld6 jjmit area=3.2
B_LD7  nld6 nld7 jjmit area=3.2
B_LD8  nld7 nld8 jjmit area=3.2
B_LD9  nld8 nld9 jjmit area=3.2
B_LD10 nld9 nld10 jjmit area=3.2
B_LD11 nld10 nld11 jjmit area=3.2
B_LD12 nld11 0 jjmit area=3.2

* WL: W1(10-20) | R1(30-40) | W0(60-70) | R0(80-90) | W1#2(110-120) | R1#2(130-140)
I_WL1 0 WL1 pwl(0 0 9p 0
+ 10p 100U  20p 100U  21p 0
+ 30p 0 31p 100U  40p 100U  41p 0
+ 60p 0 61p -100U 70p -100U 71p 0
+ 80p 0 81p 100U  90p 100U  91p 0
+ 110p 0 111p 100U 120p 100U 121p 0
+ 130p 0 131p 100U 140p 100U 141p 0
+ 160p 0)

* BL: W1(10-20) | W0(60-70, BL=-100) | W1#2(110-120)
I_BL1 0 BL1 pwl(0 0 9p 0
+ 10p 100U  20p 100U  21p 0
+ 30p 0 41p 0
+ 60p 0 61p -100U 70p -100U 71p 0
+ 80p 0 91p 0
+ 110p 0 111p 100U 120p 100U 121p 0
+ 130p 0 141p 0
+ 160p 0)

* SE: R1(30-40) | R0(80-90) | R1#2(130-140)
I_SE1 0 SE1 pwl(0 0
+ 30p 0 31p 100U  40p 100U  41p 0
+ 80p 0 81p 100U  90p 100U  91p 0
+ 130p 0 131p 100U 140p 100U 141p 0
+ 160p 0)

.tran 0.1p 160p
.print I(I_WL1) I(I_BL1) I(I_SE1)
.print I(L_SL|XBVM1)
.print V(SL1) V(WL1) V(BL1) V(SE1)
.print P(B_JM1|XBVM1) P(B_JM2|XBVM1)
.end
